US09108944B2
A mixture of 3-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-2-fluorobenzamido)propyl methanesulfonate (45 mg, 0.075 mmol), 3,3-difluoropyrrolidine hydrochloride (54 mg, 0.37 mmol), and triethylamine (0.14 mL, 1.05 mmol) in THF (2 mL) was heated to 70° C. overnight. Brine and EtOAc were added to a cooled reaction mixture and the aqueous layer was extracted with EtOAc (2×), the organics were combined, dried over sodium sulfate, and evaporated to dryness. The residue obtained was purified by reverse phase HPLC (acetonitrile/water:TFA) to obtain 4.2 mg of 4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-N-(3-(3,3-difluoropyrrolidin-1-yl)propyl)-2-fluorobenzamide. 1H NMR (300 MHz, DMSO-d6) δ 9.15 (s, 1H), 8.68 (d, 1H), 8.51 (t, 1H), 7.72 (t, 1H), 7.39 (dd, 1H), 7.30 (dd, 1H), 3.25 (m, 4H), 2.80 (t, 2H), 2.64-2.58 (m, 4H), 2.44-2.40 (m, 2H), 2.16 (m, 2H), 1.91 (m, 1H), 1.64-1.45 (m, 3H). LCMS [M+1]+ 611.1.

reactant | 3-(4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-2-fluorobenzamido)propyl methanesulfonate | 0.075 mmol, 45 mg | CS(=O)(=O)OCCCNC(C1=C(C=C(C=C1)N1C2(CCC2)C(N(C1=S)C=1C=NC(=C(C1)C(F)(F)F)C#N)=O)F)=O | C24H21F4N5O5S2
reactant | 3,3-difluoropyrrolidine hydrochloride | 0.37 mmol, 54 mg | Cl.FC1(CNCC1)F
reactant | triethylamine | 1.05 mmol, 0.14 mL | C(C)N(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | Brine | [Cl-].[Na+].O
product | 4-(7-(6-cyano-5-(trifluoromethyl)pyridin-3-yl)-8-oxo-6-thioxo-5,7-diazaspiro[3.4]octan-5-yl)-N-(3-(3,3-difluoropyrrolidin-1-yl)propyl)-2-fluorobenzamide | 4.2 mg | C(#N)C1=C(C=C(C=N1)N1C(N(C2(CCC2)C1=O)C1=CC(=C(C(=O)NCCCN2CC(CC2)(F)F)C=C1)F)=S)C(F)(F)F | C27H24F6N6O2S
